Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
left leg pain
 
Major Surgical or Invasive Procedure:
___: left femoral Endarterectomy, patch angioplasty, 
bilateral kissing common iliac artery stents, left external 
iliac artery stent

 
History of Present Illness:
Ms. ___ is a ___ patient of
Dr. ___ for consultation regarding left foot pain. 
It has been going on for quite some time.  She recently saw her
primary care doctor.  She describes the left foot being cool and
painful, usually starts about 4:30 at night and runs across the
top of her foot.  She never gets any calf pain when she walks,
although she does not go very far.  She stands for work and
really can only go up and down the aisle once without stopping. 
She also feels that her foot is stiff.  She has never had any
ulceration or sores on the foot.  Her right leg does not bother
her, although she does not walk very far.  Unfortunately, she is
still smoking a pack of cigarettes a day and I may smell some
alcohol on her breath and I noted from the report that she has 
at
least three drinks a day.  It sounds like that may be more.  In
addition, unfortunately she does not take her aspirin even 
though
that was prescribed and it sounds like she periodically takes 
her
statin.  She also has known moderate carotid disease at 50%.

Further medical and surgical history, review of systems,
medications, see attached health questionnaire, which we 
reviewed
initially.  In addition, she underwent OMR review and medication
reconciliation.
 
Physical Exam:
At admission: 

GENERAL:  She is a thin female, appears older than her stated
age.
HEAD:  Normocephalic, atraumatic.
NEUROLOGIC:  Alert and oriented x 3.
VITAL SIGNS:  Blood pressure 140/68.
ABDOMEN:  Benign.  Her pulsation is not widened.
EXTREMITIES:  Peripheral vascular exam on the right, she has
palpable femoral pulse, is calcified but palpable.  No palpable
pulses below left.  She has no pulses, whatsoever.  Her foot;
however, is warm.  There is some discoloration of the tips of 
the
toe, but no ulceration, no embolic stigmata.

At discharge: 

GEN: NAD
HEENT: EOMI
CV: RRR
PULM: non-labored breathing
ABD: soft, nontender, nondistended
EXT: palpable bilateral lower extremity pulses 
 
Brief Hospital Course:
Ms. ___ presented to ___ on ___ as a same day admission 
for surgery. She was taken to the Operating Room where she 
underwent left femoral Endarterectomy, patch angioplasty, 
bilateral kissing CIA stents, and L EIA stent. For full details 
of the procedure, please see the separately dictated Operative 
Report. She was extubated and returned to the PACU in stable 
condition. After satisfactory recovery from anesthesia, she was 
transferred to the Surgical Floor for further monitoring. 

Diet was advanced to regular which she tolerated well. She was 
OOB to chair on POD1 and ambulated ad lib on POD2. There were no 
nursing concerns regarding safety for discharge home. 

Social work was consulted to discuss alcohol and smoking 
cessation. Patient was amenable to smoking cessation, but wishes 
to continue drinking. She was on CIWA protocol throughout her 
hospitalization and did not require any benzodiazepines. 

Foley and A-line were removed on POD1. Patient had no issues 
voiding spontaneously.

All prescriptions for long-term medications were faxed to the 
___ free-fill line at the time of discharge, per PACT 
recommendations to assist in medication compliance.  

She was discharged home on ___. At the time of discharge, 
she was tolerating a regular diet, pain was controlled, 
ambulating independently, and voiding spontaneously. She will 
follow up with Dr. ___ staple removal.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. MetFORMIN (Glucophage) 850 mg PO BID 
3. Cyclobenzaprine 5 mg PO DAILY:PRN muscle spasm 
4. Phenytoin Sodium Extended 300 mg PO QHS 
5. Ibuprofen 800 mg PO Q8H:PRN Pain - Severe 
6. Aspirin 81 mg PO DAILY 
7. TraZODone 200 mg PO QHS:PRN insomnia 
8. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
2.  Clopidogrel 75 mg PO DAILY 
Take for 30 days.  
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour Apply to skin. once a day Disp #*30 
Patch Refills:*2 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
Do not drink alcohol or drive while taking this medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0 
5.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
6.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
7.  Cyclobenzaprine 5 mg PO DAILY:PRN muscle spasm  
8.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
9.  MetFORMIN (Glucophage) 850 mg PO BID 
RX *metformin 850 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*6 
10.  Phenytoin Sodium Extended 300 mg PO QHS 
RX *phenytoin sodium extended 300 mg 1 capsule(s) by mouth at 
bedtime Disp #*30 Capsule Refills:*6 
11.  TraZODone 200 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
left foot ischemia
left iliac artery occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with decreased blood flow in your 
left foot. You were taken to the Operating Room where you 
underwent an operation to open the arteries supplying blood to 
your leg. You have recovered well and are now ready for 
discharge. Please follow the instructions below regarding your 
care. 

MEDICATION:
• Take Aspirin 325mg (enteric coated) once daily 
• If instructed, take Plavix (Clopidogrel) 75mg once daily
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications
• You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

Thank you for allowing us to participate in your care.

Sincerely, 

Your ___ Surgery Team 
 
Followup Instructions:
___